Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug)
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
PICC line placement ___
PICC line removal ___
Dobhoff placement ___

 
History of Present Illness:
___ with history of opioid abuse, morbid obesity s/p gastric 
bypass ___, multiple SBOs, and recent admission to ___ 
for esophagitis, who presents with worsening abdominal pain and 
inability to tolerate po's.  
She notes that her abdominal pain began ___ year ago and 
progressively worsened. Today, she describes burning ___ 
epigastric pain that radiates upward and is worse with po 
intake. This pain has been present intermittently and in the 
past 5 days intensely worsened. She has eaten one meal in the 
past 7 days. She reports lightheadedness, especially on 
standing, which has led to a few falls (no head strikes). She 
denies nausea, vomiting, fever, chills. No blood in her stool, 
but she has not had a BM for 4 days. Urine is dark yellow. Also 
has 7lb weight loss in 6 months.  
. 
In the ED, initial vital signs were 97.3 72 140/84 16 100%. 
Initial labs with WBC 8.6, PMN 83.5, HCT 34.7, ALT:51 AP: 115 
Tbili: 1.3 Alb: 2.0 AST: 23 Lip: 5. CHEM 7 unremarkable. She had 
CXR and EKG which were unremarkable. She was started on IVF.  
On arrival to the floor, initial vitals were 98.5 106/67 93 18 
98%RA.  
 
Review of Systems:  
(+)  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  

 
Past Medical History:
-Morbid obesity (max 448lbs) s/p gastric bypass & CCY at 
___  and complete reversal
-History of HTN, DM, asthma (prior to gastric bypass)  
-Opiate addiction: prior intranasal herion, oral dilaudid abuse, 
now on suboxone  
-Depression/Anxiety  
-Esophagitis: EGD ___ showed mild active esophagitis.  
-DJD  
-2 SBOs  
-Menopause completed  

Past Surgical History:  
-___- gastric bypass & CCY  and subsequent complete 
reversal
-7 surgeries on the abdomen. "stomach leak" hernia, 2 SBOs, 
attempted reverse of the gastric bypass, the most recent in ___ 
 

 
Social History:
___
Family History:
-Mother: insulin dependent DM, DJD, htn- ___
-Father: healthy - ___
-Uncle/Cousin/ Aunt: colon ca, breast ca
-MGM: seizures-___ deceased
-MGF: heart ___ deceased
-PGM: ?edema - elderly deceased
-PGF: deceased in war
-Siblings: healthy
-Children: dtr has DM, she is ___, she was dx at age ___ with T1DM 
but she is obese.
 
Physical Exam:
Admission Physical Exam:  
Vitals- 98.5 106/67 93 18 98%RA.  
General: Cachectic female, alert, oriented x3, NAD  
HEENT: EOMI, PERRL, oropharynx pink and moist  
Neck: EJ in place on left. No LAD  
CV: RRR, no m/r/g  
Lungs: CTAB  
Abdomen: Scaphoid, redundant skin folds, soft, + epigastric 
tenderness, no rebound or guarding  
GU: no foley  
Ext: 2+ edema of lower extremities to knees. Warm, well perfused 
 

Discharge Physical Exam: 
Vitals: 98.5 97.5 ___ 86-118 ___ 100RA
i/o: 2700/700
weight: 59.9kg
Gen: cachectic female, alert, oriented x3, NAD, dobhoff tube in 
place and bridaled
HEENT: Large 4cm hematoma at posterior occiput.  Tenderness to 
mid posterior neck, EOMI, PERRL, MMM, dry lips
Neck:  No LAD
CV:  RRR, no m/r/g
Lungs: CTAB
Abdomen: Scaphoid, redundant skin folds, soft, + epigastric and 
periumbilical tenderness, no rebound or guarding
GU: no foley
Ext: 1+ edema of lower extremities to sacrum.  Warm, well 
perfused
Neuro: CN ___ and strength grossly intact.

 
Pertinent Results:
Admission labs:
___ 03:02PM BLOOD WBC-8.6 RBC-3.31* Hgb-11.2* Hct-34.7* 
MCV-105* MCH-33.7* MCHC-32.1 RDW-16.3* Plt ___
___ 03:02PM BLOOD Neuts-83.5* Lymphs-12.5* Monos-3.1 
Eos-0.1 Baso-0.9
___ 07:30AM BLOOD ___ PTT-32.8 ___
___ 03:02PM BLOOD Glucose-91 UreaN-15 Creat-0.8 Na-139 
K-4.1 Cl-104 HCO3-28 AnGap-11
___ 03:02PM BLOOD ALT-51* AST-23 AlkPhos-115* TotBili-1.3
___ 03:02PM BLOOD Lipase-5
___ 07:30AM BLOOD Calcium-6.9* Phos-2.5* Mg-1.6

Pertinent labs and discharge labs:
___ 06:12AM BLOOD WBC-4.9 RBC-2.54* Hgb-8.8* Hct-27.3* 
MCV-108* MCH-34.7* MCHC-32.2 RDW-17.4* Plt ___
___ 06:12AM BLOOD Glucose-82 UreaN-9 Creat-0.4 Na-139 K-4.4 
Cl-112* HCO3-25 AnGap-6*
___ 06:12AM BLOOD Calcium-7.0* Phos-2.6* ___ 
05:20AM BLOOD calTIBC-57* VitB12-500 ___ Ferritn-89 
TRF-44*
___ 05:20AM BLOOD PTH-78*
___ 12:07PM BLOOD HIV Ab-Negative
___ 03:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Pertinent imaging:
EGD ___- 
Esophagus- Mucosa: Diffuse yellowish plaques most likely 
compatible with candidiasis were seen in the whole esophagus. 
Cold forceps biopsies were performed for histology at the lower 
third of the esophagus and middle third of the esophagus.  
Excavated Lesions A few small longitudinal ulcerations were 
found in the gastroesophageal junction and the cardia.  
Stomach:  
 Lumen: Evidence of a previous gastric bypass with 
gastro-jejunal anastomosis was seen. The gastro-jejuno 
anastomosis was normal and widely patent. No discrete ulcer was 
noted at this level.  
 Other A small well-organized openning compatible with a gastric 
fistula was noted in the proximal portion of the remanent of the 
gastric pouch, most likely in communication with the excluded 
stomach because large amount of bile was noted in the gastric 
pouch.   
Jejunum: Normal mucosa at the efferent limb until 70 cm from 
incisors. 
    Impression: Previous gastric bypass with gastro-jejunal 
anastomosis of the stomach Esophageal candidiasis (biopsy) 
A few small longitudinal ulcerations were found in the 
gastroesophageal junction and the cardia.  small well-organized 
openning compatible with a gastric fistula was noted in the 
proximal portion of the remanent of the gastric pouch, most 
likely in communication with the excluded stomach because large 
amount of bile was noted in the gastric pouch. 
Otherwise normal EGD to jejunum (efferent limb)

CT head/spine: ___
1.  There is no acute fracture or alignment abnormality. 
2.  Heterogeneous attenuation of the thyroid gland.  Correlate 
with prior 
thyroid imaging if available.  If not, further assessment could 
be performed by thyroid ultrasound on a non-emergent basis. 
Final attending Comment: a left pleural effusion is also noted. 

CXR ___:  
___ tube has been advanced and is now curled in the 
stomach.  Right-sided PICC line ends in lower SVC.  Small 
overlaying left pleural effusion is unchanged since yesterday, 
may be slightly worse than ___ and new since ___.  There is no pneumothorax.  The lungs are otherwise clear. 
 Mediastinal and cardiac contours are normal.

 
Brief Hospital Course:
___ with history of opioid abuse, morbid obesity s/p gastric 
bypass  ___, multiple SBOs, and recent admission to ___ 
for esophagitis, who presents with worsening abdominal pain and 
inability to tolerate po's and was found to have candidal 
esophagitis.  Dobhoff placed for tube feeding.  Course 
complicated by mechanical fall.

ACUTE ISSUES:
=============

# Abdominal Pain / Odynophagia / ___: Despite 
chronic abdominal pain, current presentation was primarily for 
odynophagia. Patient had an EGD three months prior which showed 
severe esophagitis (neg hpylori). She had repeat EGD performed 
on ___ which showed severe candidal esophagitis. Biopsies were 
taken and patient was started on empiric fluconazole with plan 
for 3 week course (ending ___. Symptoms controlled 
with zofran prn, carafate slurries QID, omeprazole BID and 
cholestyramine.  Her malnutrition is likely the risk factor for 
___ esophagitis.  HIV Ab was NEGATIVE.   

# Malnutrition: Patient was severely malnourished on 
presentation due to inability to tolerate po's. We had long 
discussions with the bariatric team at ___ as well as the 
patient's prior bariatric surgeon (Dr. ___.  Given 
acute cause for decreased po intake (candidal esophagitis), we 
opted to place ___ and start tube feeds. Patient will 
continue treatment for esophagitis and if able to improve po 
intake, may have dobhoff removed in the future. If not, will 
need to consider converting to gastric or jejunal tube.  If G- 
or J-tube needed, in theory, she can have a feeding tube placed 
by endoscopy, as per d/w her prior bariatric surgeon and the 
inpt Bariatric Surgery consult team at ___, her prior gastric 
bypass has been COMPLETELY REVERSED.  Bariatric Surgery 
recommends that if GI were to defer placement due to history of 
gastric bypass, pt should be referred back to her prior 
Bariatric Surgeon at ___ for placement of feeding tube.  
However, after d/w her prior bariatric surgeon, who is now at 
___ / ___, the pt has been terminated from his 
practice and he no longer follows her.  As such, she would need 
to f/u with ___ Bariatric Surgery for any issues related to her 
prior gastric bypass.    

# S/P mechanical fall: She fell the night of ___ after getting 
up to the bathroom unassisted.  No loss of consciousness or 
neurologic deficits.  CT imaging of head and neck were negative 
for spinal compromise.  Pain control with tylenol and toradol.  
She continued suboxone.  No opiods were given.  

# Small left pleural effusion: incidental finding on CT c-spine. 
 CXR done which showed very small effusion.  Etiology most 
likely related to hypoalbuminemia. There was no hypoxia, fever, 
or dyspnea.  There was no chest pain.  

CHRONIC ISSUES:
===============

# Opioid dependence: history of dilaudid and  heroin use.  Now 
on suboxone. Continue on home Buprenorphine-Naloxone (8mg-2mg) 1 
TAB SL TID 

# Lower extremity edema: due to poor po intake and 
hypoalbuminemia.  
  
# Macrocytic Anemia: stable throughout admission.

# Elevated ___: improved with po vitamin K to 1.0 at time of 
discharge. 

# DJD: stable, continued vitamin D

# Depression/anxiety: stable, she continued home quetiapine, 
doxepin.  Current clonazepam dosing is 1mg po BID.
 
TRANSITIONAL ISSUES:
- Contact person: ___ (Mother) ___
- Full Code
- Tube feeds to be titrated to goal
- complete course of fluconazole for ___ esophagitis
- non-emergent thyroid ultrasound to f/u incidental thyroid 
abnormalities on CT C-spine 
- consider repeat CXR or chest imaging to eval for resolution of 
left pleural effusion if she develops any respiratory or 
concerning symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID:PRN constipation 
2. Doxepin HCl 75 mg PO HS 
3. Clonazepam 2 mg PO TID 
hold for sedation or rr < 10 
4. Omeprazole 20 mg PO BID 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Vitamin D ___ UNIT PO DAILY 
7. Quetiapine Fumarate 400 mg PO HS 
8. Quetiapine Fumarate 200 mg PO QAM 
9. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 

 
Discharge Medications:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL TID 
2. Docusate Sodium 100 mg PO BID:PRN constipation 
3. Doxepin HCl 75 mg PO HS 
4. Omeprazole 20 mg PO BID 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. QUEtiapine Fumarate 400 mg PO HS 
7. QUEtiapine Fumarate 200 mg PO QAM 
8. Vitamin D ___ UNIT PO DAILY 
9. Acetaminophen 650 mg PO Q8H:PRN pain 
10. Cholestyramine 4 gm PO BID 
11. Fluconazole 200 mg PO Q24H Duration: 3 Weeks 
ending ___ 
12. Polyethylene Glycol 17 g PO TID 
13. Sucralfate 1 gm PO QID 
14. ClonazePAM 1 mg PO BID  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Severe candidal esophagitis
Malnutrition
Mechanical fall with head strike
Small left pleural effusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you while you were admitted to 
___.  You were admitted with severe abdominal pain and 
inability to tolerate oral intake.  We have started you on 2 
medications: cholestyramine and sucralfate which have improved 
your symptoms.

An endoscopy was performed which showed severe inflammation of 
your esophagus due to ___ (a fungus).  You were started on 
fluconazole, a medications to treat this.  You will need to 
continue on fluconazole through ___. 

A nasojejunal tube was placed so that you can start tube feeds 
while your esophagus heals. If you are able to gain weight and 
start eating by mouth, this may be removed in the future.  If 
not, you will need to meet with your bariatric surgeons at 
___ regarding a g-tube placement.
 
Followup Instructions:
___